US07638541B2
Step 2: 1-[4-(4-Methanesulfonyl-phenoxymethyl)-thiazol-2-yl]-4-(2-methyl-propane-1-sulfonyl)-piperazine
A solution of 1-[4-(4-Methanesulfonyl-phenoxymethyl)-thiazol-2-yl]-piperazine hydrochloride (100 mg, 0.26 mmol) and DIPEA (134 mL, 3 eq.) in CH2Cl2 (5 mL) was added isobutanesulfonyl chloride (41 mL, 1.2 eq.). The mixture was stirred for 1 hour, then the reaction solution was directly purified on silica gel (EtOAc:hexanes=1:1) to afford the desired product as a pale yellow solid. 1H NMR (CDCl3): δ 7.87 (2H, d, J=8.8 Hz), 7.12 (2H, d, J=8.8 Hz), 6.62 (1H, s), 5.05 (2H, s), 3.61 (4H, m), 3.39 (4H, m), 3.04 (3H, s), 2.78 (2H, d, J=6.8 Hz), 2.32 (1H, m), 1.12 (6H, d, J=6.8 Hz).

reactant | 1-[4-(4-Methanesulfonyl-phenoxymethyl)-thiazol-2-yl]-piperazine hydrochloride | 0.26 mmol, 100 mg | Cl.CS(=O)(=O)C1=CC=C(OCC=2N=C(SC2)N2CCNCC2)C=C1
reactant | DIPEA | 134 mL, 3 eq. | CCN(C(C)C)C(C)C | C8H19N
reactant | isobutanesulfonyl chloride | 41 mL, 1.2 eq. | C(C(C)C)S(=O)(=O)Cl | C4H9ClO2S
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 1-[4-(4-Methanesulfonyl-phenoxymethyl)-thiazol-2-yl]-4-(2-methyl-propane-1-sulfonyl)-piperazine | CS(=O)(=O)C1=CC=C(OCC=2N=C(SC2)N2CCN(CC2)S(=O)(=O)CC(C)C)C=C1 | C19H27N3O5S3
